US03997536
8.3 G. of 2-(p-n-propylphenyl)-5-pyrimidinecarboxamide are boiled under reflux with 100 ml. of phosphorus oxychloride with the exclusion of moisture for 2 hours. Then, the excess phosphorus oxychloride is removed in vacuo and the mixture evaporated twice with toluene in vacuo. The residue is taken up in methylene chloride and chromatographed on 100 g. of silica gel in methylene chloride. Elution with methylene chloride and methylene chloride/2% acetone yields the 5-cyano-2-(4-n-propylphenyl)-pyrimidine, which is recrystallized from acetone/hexane up to a constant melting point and is sublimed at 120° C. in a high vacuum for purification. The pure, colorless 5-cyano-2-(4-n-propylphenyl)-pyrimidine has a melting point of 125.9-126.0° C. and on cooling is liquid crystalline (monotropic) at 106.4° C. The substance is identical with the compound obtained according to Example 6.

reactant | 2-(p-n-propylphenyl)-5-pyrimidinecarboxamide | C(CC)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)N | C14H15N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-cyano-2-(4-n-propylphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)CCC | C14H13N3
